US05882628
c. 1,3,5-Triiodo-2,4,6-trihydroxymethylbenzene
1,3,5-Triiodo-2,4,6-triacetoxymethylbenzene (9.3 g, 13.8 mmol) was suspended in methanol (120 ml) and K2CO3 (0.32 g, 2.3 mmol) was added. The mixture was stirred at ambient temperature for 16 h, and , after neutralization of the solution with 2M aqueous HCl, the organic solvent was evaporated. The residue was suspended in water and the white solid was collected by filtration and washed with water, methanol and ether. Yield: 7.1 g (94%).

reactant | 1,3,5-Triiodo-2,4,6-triacetoxymethylbenzene | 13.8 mmol, 9.3 g | IC1=C(C(=C(C(=C1COC(C)=O)I)COC(C)=O)I)COC(C)=O | C15H15I3O6
reactant | K2CO3 | 2.3 mmol, 0.32 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 120 ml | CO | CH4O
product | 1,3,5-Triiodo-2,4,6-trihydroxymethylbenzene | IC1=C(C(=C(C(=C1CO)I)CO)I)CO | C9H9I3O3
